US06673931B2
In analogy to the procedure described in example 1 (g) the (3S,4R,5R)-4-[4-[3-(2-chloro-phenoxy)-propoxy]-phenyl]-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester was deprotected with HCl in methanol to yield the (R)-3-[(3S,4R,5R)-4-[4-[3-(2-chloro-phenoxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidin-3-yloxy]-propane-1,2-diol as colorless oil; MS: 622.2 (M+H)+.

reactant | (3S,4R,5R)-4-[4-[3-(2-chloro-phenoxy)-propoxy]-phenyl]-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)Cl)OC[C@@H]1OC(OC1)(C)C | C43H52ClNO9
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | (R)-3-[(3S,4R,5R)-4-[4-[3-(2-chloro-phenoxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidin-3-yloxy]-propane-1,2-diol | ClC1=C(OCCCOC2=CC=C(C=C2)[C@H]2[C@@H](CNC[C@@H]2OCC2=CC3=CC=CC=C3C(=C2)OC)OC[C@@H](CO)O)C=CC=C1 | C35H40ClNO7
